US08008293B2
Synthesis of (R)-1-[(S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]ethanol
4 N hydrochloric acid/ethyl acetate (26.8 mL) was added to an ethyl acetate (20 mL) solution of (S)-2-((R)-1-hydroxyethyl)-5-(3,4,5-trifluorophenyl)pyrrolidine-1-carboxylic acid t-butyl ester (3.71 g), and stirring was continued for 2 hours at room temperature. The solvent was removed under a vacuum, and 5 N sodium hydroxide solution and dichloromethane were added, and the organic layer was partitioned. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under a vacuum, and the title compound (2.6 g) was obtained. The physical property values are as follows.

reactant | hydrochloric acid ethyl acetate | 4 N, 26.8 mL | Cl.C(C)(=O)OCC
reactant | (S)-2-((R)-1-hydroxyethyl)-5-(3,4,5-trifluorophenyl)pyrrolidine-1-carboxylic acid t-butyl ester | 3.71 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1C1=CC(=C(C(=C1)F)F)F)[C@@H](C)O | C17H22F3NO3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (R)-1-[(S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]ethanol | 2.6 g | FC=1C=C(C=C(C1F)F)C1CC[C@H](N1)[C@@H](C)O | C12H14F3NO
